US05753714
1,18-Bis[(phenyl)methyl]1,5,14,18-tetraazaoctadecane.circle-solid.4HCl
N,N'-Bis[3-(ethylamino)propyl]-1,7-heptanediamine Treat 3,7,15,19-tetra(t-butoxycarbonyl)-3,7,15,19-tetraazaheneicosane (1.68 gm, 0.0024 mol) with HCl in methanol (50 ml, 1.0N) and stir overnight. Filter the mixture and recrystallize the title compound from methanol/water (20:80, v/v) to yield 0.5 gm of the title compound. Rf is 0.39 on silica gel plates eluted with 40% ammonia (concentrated) in methanol; mp 322-23° C. with degradation.

reactant | N,N'-Bis[3-(ethylamino)propyl]-1,7-heptanediamine | C(C)NCCCNCCCCCCCNCCCNCC | C17H40N4
reactant | 3,7,15,19-tetra(t-butoxycarbonyl)-3,7,15,19-tetraazaheneicosane | 0.0024 mol, 1.68 gm | C(C)(C)(C)OC(=O)N(CC)CCCN(CCCCCCCN(CCCN(CC)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C37H72N4O8
reactant | HCl | Cl | ClH
solvent | methanol | 1.0N, 50 ml | CO | CH4O
product | 1,18-Bis[(phenyl)methyl]1,5,14,18-tetraazaoctadecane | 0.5 gm | C1(=CC=CC=C1)CNCCCNCCCCCCCCNCCCNCC1=CC=CC=C1 | C28H46N4
